US05688943
51A 1-Adamantyl bromomethyl ketone (Scheme 2, steps (ii)-(iii))
This was prepared following the method of Example 3A. The intermediate diazoketone was prepared from 1-adamantane carboxylic acid chloride (2.98 g, 15 mmol) and CH2N2 (generated from Diazald® 8.7 g, 40 mmol) and subsequently treated with a saturated solution of HBr in EtOAc. Flash chromatography on silica gel (eluant EtOAc:hexane fr 8:92) afforded the title compound as a pale brown mobile oil (2.30 g, 60%).

reactant | 1-adamantane carboxylic acid chloride | 15 mmol, 2.98 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | HBr | Br | BrH
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | 1-Adamantyl bromomethyl ketone | 2.30 g, 60% | BrCC(=O)C12CC3CC(CC(C1)C3)C2 | C12H17BrO
